US06599917B1
g) 4-Benzyl-5-bromo-2-hydroxypyridine
250 ml of 47% hydrobromic acid was added to 62 g of 4-benzyl-5-bromo-2-methoxypyridine, followed by heating under stirring for 3 hours in an oil bath kept at 100° C. After cooling as it was, the reaction solution was added to an aqueous potassium carbonate solution little by little and neutralized. The resulting precipitates were collected by filtration, to give 59 g of the target compound.

reactant | 4-benzyl-5-bromo-2-methoxypyridine | 62 g | C(C1=CC=CC=C1)C1=CC(=NC=C1Br)OC | C13H12BrNO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | hydrobromic acid | 250 ml | Br | BrH
product | 4-Benzyl-5-bromo-2-hydroxypyridine | 59 g | C(C1=CC=CC=C1)C1=CC(=NC=C1Br)O | C12H10BrNO
